US06114325
[2-[[N-[3-(Dimethylamino)propyl]carbamoyloxy]methyl]phenyl]-N-hexadecylformamide hydrochloride (Compound 5)
4N Hydrochloric acid--ethyl acetate solution (0.12 ml) was added to a solution of [2-[[N-[3-(dimethylamino)propyl]carbamoyloxy]methyl]phenyl]-N-hexadecylformamide (0.20 g) in ethyl acetate (2 ml) at room temperature. After being stirred for 15 minutes, the reaction mixture was concentrated. The residue was recrystallized from ethyl acetate, thereby yielding 0.19 g of the aimed compound as white crystals.

reactant | Hydrochloric acid | 4N | Cl | ClH
reactant | [2-[[N-[3-(dimethylamino)propyl]carbamoyloxy]methyl]phenyl]-N-hexadecylformamide | 0.20 g | CN(CCCNC(=O)OCC1=C(C=CC=C1)N(C=O)CCCCCCCCCCCCCCCC)C | C30H53N3O3
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 0.12 ml | C(C)(=O)OCC | C4H8O2
product | [2-[[N-[3-(Dimethylamino)propyl]carbamoyloxy]methyl]phenyl]-N-hexadecylformamide hydrochloride | 0.19 g | Cl.CN(CCCNC(=O)OCC1=C(C=CC=C1)N(C=O)CCCCCCCCCCCCCCCC)C | InChI=1S/C30H53N3O3.ClH/c1-4-5-6-7-8-9-10-11-12-13-14-15-16-19-25-33(27-34)29-22-18-17-21-28(29)26-36-30(35)31-23-20-24-32(2)3;/h17-18,21-22,27H,4-16,19-20,23-26H2,1-3H3,(H,31,35);1H
